US04791209
To an ice-cooled solution of 7-allyl-6-hydroxy-3-phenyl-1,2-benzisoxazole (17.5 g) in methylene chloride (500 ml), m-chloroperbenzoic acid (20.8 g) was added in small portions under agitation, and the mixture was refluxed for 4 hours. After cooling the mixture, water and an aqueous solution of 2N sodium hydroxide (80 ml) were added and the mixture was subjected to extraction with methylene chloride. The methylene chloride layer was washed with water and dried. By distilling off the solvent, 18 g of 7,8-dihydro-3-phenylfuro[2,3-g]-1,2-benzisoxazole-7-methanol was obtained. m.p. 107°-109° C. This compound exhibited a mass spectrum having a molecular ion peak at m/e 267.

reactant | 7-allyl-6-hydroxy-3-phenyl-1,2-benzisoxazole | 17.5 g | C(C=C)C1=C(C=CC=2C(=NOC21)C2=CC=CC=C2)O | C16H13NO2
reactant | m-chloroperbenzoic acid | 20.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
reactant | sodium hydroxide | 2N, 80 ml | [OH-].[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 7,8-dihydro-3-phenylfuro[2,3-g]-1,2-benzisoxazole-7-methanol | 18 g | C1(=CC=CC=C1)C1=NOC2=C1C=CC1=C2CC(O1)CO | C16H13NO3
